US08383637B2
(3-Dimethoxymethyl-4-nitro-phenyl)-phenyl-methanone
(3-Dimethoxymethyl-4-nitro-phenyl)-morpholin-4-yl-phenyl-acetonitrile (0.7 mol) in CH3CO2H (1500 ml) was stirred and refluxed for 30 min. The mixture was poured on ice/water and extracted with diisopropyl ether. The organic layer was washed with alkalic water and water. The organic layer was dried (MgSO4) and evaporated to yield a residue. The aqueous layers which contained product were extracted with CH2Cl2. The organic layer was dried (MgSO4) and evaporated to yield a residue. The combined residues were purified on a glass filter over silica gel (eluent: CH2Cl2). The pure fractions were collected and evaporated to yield the title compound as a residue.

reactant | (3-Dimethoxymethyl-4-nitro-phenyl)-morpholin-4-yl-phenyl-acetonitrile | 0.7 mol | COC(C=1C=C(C=CC1[N+](=O)[O-])C(C#N)(C1=CC=CC=C1)N1CCOCC1)OC | C21H23N3O5
reactant | CH3CO2H | 1500 ml | CC(=O)O | C2H4O2
product | (3-Dimethoxymethyl-4-nitro-phenyl)-phenyl-methanone | COC(C=1C=C(C=CC1[N+](=O)[O-])C(=O)C1=CC=CC=C1)OC | C16H15NO5
